US06388084B1
A mixture containing 1,6-dimethyl-4-(trifluoromethyl)-2-pyridone (2.1 g, 10.98 mmol), trifluoroacetic acid (18 mL) and trifluoroacetic anhydride (3.5 mL) was refluxed for 5 min. Then, NIS (3.15 g, 14 mmol) was added and the reaction mixture was stirred for 15 h. The reaction mixture was cooled to room temperature and the solvent was removed under vacuum. The residue was diluted with ethyl acetate (100 mL), was washed with saturated sodium bicarbonate solution (2×100 mL) and brine solution (100 mL) and was dried over anhydrous magnesium sulfate. Filtration of the drying agent and concentration gave a crude product, which was purified by silica gel chromatography on a Biotage (40m) column to afford 2.15 g (62% yield) of 1,6-dimethyl-3-iodo-4-(trifluoromethyl)-2-pyridone as an amorphous white solid. EI-HRMS m/e calcd for C8H7F3INO (M+) 316.9524, found 316.9527.

reactant | 1,6-dimethyl-4-(trifluoromethyl)-2-pyridone | 10.98 mmol, 2.1 g | CN1C(C=C(C=C1C)C(F)(F)F)=O | C8H8F3NO
reactant | trifluoroacetic acid | 18 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic anhydride | 3.5 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | NIS | 14 mmol, 3.15 g | C1CC(=O)N(C1=O)I | C4H4INO2
product | 1,6-dimethyl-3-iodo-4-(trifluoromethyl)-2-pyridone | 2.15 g, 62% yield | CN1C(C(=C(C=C1C)C(F)(F)F)I)=O | C8H7F3INO
